US05545630
6,6-Difluorohex-5-enoic acid chloride
6.5 ml of thionyl chloride are added dropwise, at room temperature, with stirring, to 7.5 g of 6,6-difluorohex-5-enoic acid and a drop of dimethylformamide. The mixture is then stirred at reflux temperature for 5 hours, the excess thionyl chloride is evaporated off in a rotary evaporator and the residue is distilled at 86° and 100 mbar. The title product is obtained in the form of a colourless fluid.

reactant | thionyl chloride | 6.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6,6-difluorohex-5-enoic acid | 7.5 g | FC(=CCCCC(=O)O)F | C6H8F2O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6,6-Difluorohex-5-enoic acid chloride | FC(=CCCCC(=O)Cl)F | C6H7ClF2O
